US04031127
20. 1-[4-(2-Formylhydrazino)phenyl]-3-decylthiourea (NA-21)
Procedure (12.) was employed with 1-formyl-2-(4-aminophenyl)hydrazine (1.51 g, 0.01 mole) and decyl isothiocyanate (1.99 g, 0.01 mole). Yield 2.4 g (69%), m.p. 150°-152° C.

reactant | 1-formyl-2-(4-aminophenyl)hydrazine | 0.01 mole, 1.51 g | C(=O)NNC1=CC=C(C=C1)N | C7H9N3O
reactant | decyl isothiocyanate | 0.01 mole, 1.99 g | C(CCCCCCCCC)N=C=S | C11H21NS
product | 1-[4-(2-Formylhydrazino)phenyl]-3-decylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)NCCCCCCCCCC | C18H30N4OS
